US04898455
A mixture of 6 g of N-(1-propenyl)piperidine, 45 ml of of diethyl ether and 4.36 ml of triethylamine is treated dropwise while stirring and gassing with nitrogen at 0° C. within 1 hour with a solution of 8.5 g of trans-4-heptyl-1-(3-chloroacryloyl)cyclohexane in 20 ml of diethyl ether. The suspension is stirred at 0° C. for a further 1 hour and then treated with 120 ml of water and extracted three times with diethyl ether. The organic phases are washed twice with water, dried over sodium sulphate, filtered and concentrated, there being obtained N-[5-(trans-4-heptylcyclohexyl)-2-methyl-5-oxo-1,3-pentadienyl]piperidine.

reactant | N-(1-propenyl)piperidine | 6 g | C(=CC)N1CCCCC1 | C8H15N
reactant | triethylamine | 4.36 ml | C(C)N(CC)CC | C6H15N
reactant | trans-4-heptyl-1-(3-chloroacryloyl)cyclohexane | 8.5 g | C(CCCCCC)[C@@H]1CC[C@H](CC1)C(C=CCl)=O | C16H27ClO
reactant | water | 120 ml | O | H2O
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
product | N-[5-(trans-4-heptylcyclohexyl)-2-methyl-5-oxo-1,3-pentadienyl]piperidine | C(CCCCCC)[C@@H]1CC[C@H](CC1)C(C=CC(=CN1CCCCC1)C)=O | C24H41NO
